US08685969B2
9. 2-((3-(7-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid
To a homogeneous, light orange solution of 4-(3-amino-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxamide (0.0782 g, 0.152 mmol), 5-chloro-2-formylbenzoic acid (0.070 g, 0.379 mmol), and acetic acid (0.022 mL, 0.379 mmol) in dichloromethane (3.03 mL) and tetrahydrofuran (2.022 mL) under nitrogen was added sodium triacetoxyborohydride (0.096 g, 0.455 mmol), and the mixture was stirred overnight. Water (3 mL) was added, and the reaction was stirred at rt for 10 min. EtOAc (50 mL) and water (20 mL) were added, and the layers were separated. The organic layer was washed with water (6×20 mL) and brine (20 mL), dried over MgSO4, and concentrated in vacuo to give a crude product which was used in the subsequent step.

reactant | 4-(3-amino-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.152 mmol, 0.0782 g | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CC(CC2)O[Si](C)(C)C(C)(C)C)C(=O)N)C | C29H37N5O2Si
reactant | 5-chloro-2-formylbenzoic acid | 0.379 mmol, 0.070 g | ClC=1C=CC(=C(C(=O)O)C1)C=O | C8H5ClO3
reactant | acetic acid | 0.379 mmol, 0.022 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.455 mmol, 0.096 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3.03 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2.022 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | Water | 3 mL | O | H2O
product | 2-((3-(7-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NCC3=C(C(=O)O)C=C(C=C3)Cl)C)C(N)=O | C37H42ClN5O4Si
